US08383644B2
(S)-3-[(S)-2-(4-Hydroxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester
(S)-3-[(S)-2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-[(4-nitro-benzenesulfonyl)-((S)-1-phenyl-propyl)-amino]-propionic acid methyl ester (230 mg) was dissolved in 3 mL dry DMF, then, mercaptoacetic acid and DBU were added at rt. The reaction stirred over night, and was partitioned between saturated aqueous NaHCO3 and diethyl ether. The organic layer was washed successively with aqueous NaHCO3, water, and brine, then was dried with Na2SO4 and evaporated. The residue was purified by silica gel flash chromatography (9:1 to 8:2 hexanes/EtOAc) to give 120 mg desired product. LCMS (m/z): 449.

reactant | (S)-3-[(S)-2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-[(4-nitro-benzenesulfonyl)-((S)-1-phenyl-propyl)-amino]-propionic acid methyl ester | 230 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OC(C)=O)C=C1)N([C@@H](CC)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C35H34N2O10S
reactant | mercaptoacetic acid | SCC(=O)O | C2H4O2S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-3-[(S)-2-(4-Hydroxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester | 120 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)O)C=C1)N[C@@H](CC)C1=CC=CC=C1)=O | C27H29NO5
